US07618983B2
4-Borono-L-phenylalanine (0.30 g, 1.0 mmol), 4-Bromo-5-methoxy-2-methyl-2H-pyridazin-3-one (0.35 g, 1.0 mmol), tetrakistriphenylphosphine palladium(0) (0.09 g), and 2.0 M aqueous sodium carbonate (3.0 mL) were refluxed in MeCN (900 mL) for 4 d. The mixture was acidified with 2.0 N HCl and treated with MeOH. The solid was filtered off and the mixture was concentrated in vacuo. The crude solid was purified using a Gilson HPLC containing a Kromasil column (10 u, 100 Å C18, column length 250×50 mm, gradient 100:0 to 10:90 H2O:MeCN) to give 2-(S)-Amino-3-[4-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-pyridazin-4-yl)-phenyl]-propionic acid. MS (ES+) 304.

reactant | 4-Borono-L-phenylalanine | 1.0 mmol, 0.30 g | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | 4-Bromo-5-methoxy-2-methyl-2H-pyridazin-3-one | 1.0 mmol, 0.35 g | BrC=1C(N(N=CC1OC)C)=O | C6H7BrN2O2
reactant | sodium carbonate | 2.0 M, 3.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 2.0 N | Cl | ClH
solvent | MeCN | 900 mL | CC#N | C2H3N
solvent | MeOH | CO | CH4O
product | 2-(S)-Amino-3-[4-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-pyridazin-4-yl)-phenyl]-propionic acid | N[C@H](C(=O)O)CC1=CC=C(C=C1)C=1C(N(N=CC1OC)C)=O | C15H17N3O4
